Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
R flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: Of note pt admitted ___ for LLQ, felt to possibly be 
related to a uterine fibroid. Pt's present sxs began 3 days ago. 
She describes R flank pain, non-radiating, with associated 
bladder "fullness." The pain has been constant, though 
waxing/waning in severity. Pt feels this pain is different in 
quality than pain from ___: no anterior abdominal pain compared 
with ___ and possibly less severe. Yesterday she noted some 
blood clots in her urine and passed a small stone the size of 
___ a dime. +dysuria. Yesterday her PCP started her on cipro. 
She took 2 doses yesterday and one dose this morning, though her 
pain has persisted, which prompted her to present to the ED.  
.  
In the ED, vitals: t 96.7, hr 80, bp 120/65, rr 16, 97% ra. ___ 
appeared uncomfortable, R cvat. ucg neg, u/a >50 rbcs, ___ wbcs. 
S wbc 11.7, o/w chem-7, lytes, lfts nml. CTU neg. cxr neg. Pt 
given 2 l ns, toradol 30 mg iv, zofran 4 mg iv, morphine 2 mg 
x3, 4 mg x1 (total 10), dilaudid 1 mg x3. Admitted to medicine.  

.  
ros: + nausea, no vomiting since sxs onset. fever at home to 
100. Denies vaginal pain or discharge.  
.
 
Past Medical History:
1. "skin cancer" RUQ abd
2. reflux years ago
 
Social History:
___
Family History:
NC
 
Physical Exam:
Temp 96.6  
BP 100/68  
Pulse 63  
Resp 18  
O2 sat 97% ra  
Gen - Alert, no acute distress  
HEENT - anicteric, mucous membranes dry  
Neck - no JVD, no cervical lymphadenopathy  
Chest - Clear to auscultation bilaterally  
CV - Normal S1/S2, RRR, no murmurs  
Abd - Soft, nontender, nondistended, with normoactive bowel 
sounds  
Back - mild R cvat  
Extr - No edema. 2+ DP pulses bilaterally  
Neuro - Alert and oriented x 3  
Skin - No rash  

 
Pertinent Results:
___ 05:10PM   GLUCOSE-89 UREA N-9 CREAT-1.0 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-23 ANION GAP-15
___ 05:10PM   estGFR-Using this
___ 05:10PM   ALT(SGPT)-26 AST(SGOT)-32 ALK PHOS-106 TOT 
BILI-0.2
___ 05:10PM   LIPASE-42
___ 05:10PM   WBC-11.7* RBC-4.96 HGB-13.4 HCT-40.6 MCV-82 
MCH-27.1 MCHC-33.0 RDW-15.3
___ 05:10PM   NEUTS-69.0 ___ MONOS-4.0 EOS-2.0 
BASOS-0.6
___ 05:10PM   PLT COUNT-334
___ 05:10PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:10PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
___ 05:10PM URINE  RBC->50 ___ BACTERIA-MANY YEAST-NONE 
___ TRANS ___
 
Brief Hospital Course:
Once she was admitted it was initially thought that her pain was 
going to resolve within a couple hours and was on morphine 2mg 
q6, and percocet ___ q6. However her pain was unrelieved. The 
pain however continued into the afternoon and changed percocet 
q4 and morphine ___ q4. She was also given 2L IVF, and 2x of 
Kertolac. She still needed ambien to sleep. As her pain did not 
go away the working diagnosis of renal colic s/p nephrolithiasis 
appeared unlikely. Her pain was more clearly described as flank 
pain that radiated and wrapped around her hip to her suprapubic 
area.  It was concluded that pt was most likely having renal 
colic s/p nephrolithiasis, treated symptomatically, which 
improved and pt was d/c.
 
Medications on Admission:
cipro 500 mg x 3 d (started ___ 
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.
Disp:*15 Tablet(s)* Refills:*0*
2. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
3. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO three times a 
day for 3 days.
Disp:*9 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Dx: renal cholic

 
Discharge Condition:
fair

 
Discharge Instructions:
You had renal cholic after passing a kidney stone earlier. The 
CT did not show that you had another stone. You were given IV 
Kertolac to reduce inflamation, IV morphine and percocet for 
pain, and IV fluids to help flush the urinary tract.

If your pain becomes significantly worse, you have a fever 
>101.5, or symptoms worsen please come back to the ER 
immediately. 
 
Followup Instructions:
___